US04413009
N-((Methylamino)carbonyl)-N-(((methylamino)carbonyl)oxy)acetamide
A mixture of acetohydroxamic acid (7.5 grams), methyl isocyanate (12.0 grams), 80 milliliters (ml) of methylene chloride, and about three drops of triethylamine were stirred together for about one hour in order to obtain solution. The solution was allowed to stand at room temperature overnight after which the solvent was removed under vacuum, leaving a residue. The residue was recrystallized from methylene chloride leaving the desired N-((methylamino)carbonyl)-N-(((methylamino)carbonyl)oxy)acetamide as white crystals having a melting point (m.p.) of 121°-123.5° C.

reactant | acetohydroxamic acid | 7.5 grams | C(C)(=O)NO | C2H5NO2
reactant | methyl isocyanate | 12.0 grams | CN=C=O | C2H3NO
catalyst | triethylamine | about three drops | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 80 milliliters | C(Cl)Cl | CH2Cl2
product | N-((Methylamino)carbonyl)-N-(((methylamino)carbonyl)oxy)acetamide | CNC(=O)N(C(C)=O)OC(=O)NC | C6H11N3O4
